US04239901
14.25 g (50 mmoles) of 2-[3-chloro-4-(4-chloropyrazol-1-yl)phenyl]propionic acid, 150 ml of ethanol and 7 g of concentrated sulfuric acid are heated to the boil for 10 hours. Concentration is effected, followed by pouring onto ice water, extracting with diethyl ether, washing of the organic solution with sodium hydrogen carbonate solution, drying the organic solution and distilling it to obtain 12.4 g (83% of theory) of 2-[3-chloro-4-(4-chloropyrazol-1-yl)phenyl]propionic acid ethyl ester (b.p. 134° C./3·10-2 mm Hg).

reactant | 2-[3-chloro-4-(4-chloropyrazol-1-yl)phenyl]propionic acid | 50 mmoles, 14.25 g | ClC=1C=C(C=CC1N1N=CC(=C1)Cl)C(C(=O)O)C | C12H10Cl2N2O2
reactant | sulfuric acid | 7 g | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 150 ml | C(C)O | C2H6O
product | 2-[3-chloro-4-(4-chloropyrazol-1-yl)phenyl]propionic acid ethyl ester | 12.4 g, 83% | C(C)OC(C(C)C1=CC(=C(C=C1)N1N=CC(=C1)Cl)Cl)=O | C14H14Cl2N2O2
